US06187724B1
With 57 g of oleic acid were mixed 93 g of perfluorooctylethanol and 340 ml of toluene, and 3 g of p-toluenesulfonic acid was slowly added with stirring. The resulting mixture was vigorously refluxed for about 1 hour and 30 minutes to carry out the reaction until water was removed azeotropically. After completion of the reaction, the reaction mixture was cooled and then concentrated under reduced pressure to remove the toluene, and the residue was dissolved in 300 ml of n-hexane. The resulting solution was purified by a column chromatography to obtain 129 g (yield: 88%) of perfluorooctylethyl oleate.

reactant | oleic acid | 57 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | perfluorooctylethanol | 93 g | FC(C(F)(F)F)(O)C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C10HF21O
reactant | toluene | 340 ml | C1(=CC=CC=C1)C | C7H8
reactant | p-toluenesulfonic acid | 3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | perfluorooctylethyl oleate | 129 g, yield: 88% | C(CCCCCCC\C=C/CCCCCCCC)(=O)OC(C(F)(F)F)(C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C28H33F21O2
